US08247377B2
Intermediate 23: (S)-3,3,3-Trifluoro-2-{[(phenylmethyl)amino]methyl}-1,2-propanediol
(S)-3,3,3-Trifluoro-2-hydroxy-2-{[(phenylmethyl)amino]methyl}propyl butanoate (0.32 g) was dissolved in 5M hydrochloric acid (5 ml) and ethanol (5 ml) and heated at 100° C. for 3 hours. After cooling, the ethanol was evaporated and the remaining aqueous was basified with 2M sodium hydroxide and extracted with ethyl acetate (2 times). The combined organics were dried using a hydrophobic frit and evaporated to give the title compound as a pale yellow oil (0.26 g).

reactant | (S)-3,3,3-Trifluoro-2-hydroxy-2-{[(phenylmethyl)amino]methyl}propyl butanoate | 0.32 g | C(CCC)(=O)OC[C@](C(F)(F)F)(CNCC1=CC=CC=C1)O | C15H20F3NO3
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 5M, 5 ml | Cl | ClH
product | (S)-3,3,3-Trifluoro-2-{[(phenylmethyl)amino]methyl}-1,2-propanediol | 0.26 g | FC([C@](CO)(O)CNCC1=CC=CC=C1)(F)F | C11H14F3NO2
